US06586429B2
To a stirring slurry of (R)-7-ethoxymethyl-8-(2-chloroethylsulfanyl)-1-(5-hydroxyhexyl)-3-methylxanthine (150 mg, 0.322 mmol) in ethanol (9.0 ml) was added concentrated hydrochloric acid (1.0 ml). After stirring at 80° C. for 3 hours and concentrating under reduced pressure, (R)-8-(2-chloroethylsulfanyl)-1-(5-hydroxyhexyl)-3-methylxanthine (100 mg, 86 % yield) was obtained as a beige powder.

reactant | (R)-7-ethoxymethyl-8-(2-chloroethylsulfanyl)-1-(5-hydroxyhexyl)-3-methylxanthine | 0.322 mmol, 150 mg | C(C)OCN1C(=NC=2N(C(N(C(C12)=O)CCCC[C@@H](C)O)=O)C)SCCCl | C17H27ClN4O4S
reactant | hydrochloric acid | 1.0 ml | Cl | ClH
solvent | ethanol | 9.0 ml | C(C)O | C2H6O
product | (R)-8-(2-chloroethylsulfanyl)-1-(5-hydroxyhexyl)-3-methylxanthine | 100 mg, 86 % yield | ClCCSC1=NC=2N(C(N(C(C2N1)=O)CCCC[C@@H](C)O)=O)C | C14H21ClN4O3S
